US04959092
1-[4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)phenyl]-3-methoxy-3-methylurea
6.5 g of 4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)aniline was dissolved into 30 ml of pyridine, and 3.8 g of N-methoxy-N-methylcarbamoyl chloride was slowly added dropwise thereto under cooling with ice. After 2-hours' continuous stirring, pyridine was distilled off under a reduced pressure, and the residual oily matter was dissolved into 100 ml of toluene. After the reaction mixture was subsequently washed with water, diluted hydrochloric acid and saturated sodium chloride aqueous solution, toluene was distilled off. The residue was subjected to silica gel column chromatography using ethyl acetate/n-hexane (1/1) as a developer to obtain 7.3 g of Compound No. 40 shown in Table 2.

reactant | 4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)aniline | 6.5 g | CC1OC2=C(C1)C=C(C=C2)COC2=CC=C(N)C=C2 | C16H17NO2
reactant | N-methoxy-N-methylcarbamoyl chloride | 3.8 g | CON(C(=O)Cl)C | C3H6ClNO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-(2,3-dihydro-2-methyl-5-benzofuranylmethyloxy)phenyl]-3-methoxy-3-methylurea | 7.3 g | CC1OC2=C(C1)C=C(C=C2)COC2=CC=C(C=C2)NC(=O)N(C)OC | C19H22N2O4
